US08383637B2
[6-(3-Amino-phenoxy)-3-propyl-3,4-dihydro-quinazolin-2-yl]-carbamic acid tert-butyl ester
A mixture of [6-(3-benzyloxycarbonylamino-phenoxy)-3-propyl-3,4-dihydro-quinazolin-2-yl]-carbamic acid tert-butyl ester (0.008 mol) in methanol (150 mL) was hydrogenated with 10% Pd/C (1 g) as a catalyst. After uptake of H2 gas (1 equiv.), the reaction mixture was filtered over Dicalite and the filtrate was evaporated. The residue was stirred in diisopropyl ether and the resulting precipitate was filtered off and dried to yield the title compound as a solid.

reactant | [6-(3-benzyloxycarbonylamino-phenoxy)-3-propyl-3,4-dihydro-quinazolin-2-yl]-carbamic acid tert-butyl ester | 0.008 mol | C(C)(C)(C)OC(NC1=NC2=CC=C(C=C2CN1CCC)OC1=CC(=CC=C1)NC(=O)OCC1=CC=CC=C1)=O | C30H34N4O5
reactant | Dicalite | O=[Si]=O | O2Si
solvent | methanol | 150 mL | CO | CH4O
catalyst | Pd/C | 1 g | [Pd] | Pd
product | [6-(3-Amino-phenoxy)-3-propyl-3,4-dihydro-quinazolin-2-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NC2=CC=C(C=C2CN1CCC)OC1=CC(=CC=C1)N)=O | C22H28N4O3
